US07834063B2
A. 4-[(2,2-Dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1A from 4-fluoro-2-(trifluoromethyl)benzonitrile and neopentylamine: MS (El) m/z 256 (M+, 9%), 239 ({[M−H]—CH3}+, 32%), 199 ([M-tbutyl]+, 78%), 179 ([M-neopentylamine]+, 100).

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | neopentylamine | C(C(C)(C)C)N | C5H13N
product | 4-[(2,2-Dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CNC1=CC(=C(C#N)C=C1)C(F)(F)F)(C)C | C13H15F3N2
